US05256793
In a 50 gallon reactor, a stirred solution of 12 pounds (0.111 lb mole) of phenylhydrazine in 115 pounds of glacial acetic acid was cooled to about 5° to 10° C., and a solution of 5.2 pounds (0.087 lb mole) of acetaldehyde in 6.1 pounds of acetic acid was added at a rate that maintained the reaction mixture temperature at about 12° to 15° C. The complete addition required about five minutes. Immediately upon completion of addition, a cold solution (about 15° C.) of 7.6 pounds (0.117 lb mole) of sodium cyanate in 72 pounds of water was added at a rate that maintained the reaction mixture temperature at about 8 to 12° C. The complete addition required about 30 minutes. Upon completion of addition, the reaction mixture was stirred for 20 minutes and then was warmed to about 20° C. A solution of 13.3 pounds (0.179 lb mole) of sodium hypochlorite in 119.7 pounds of water was then added at a rate that maintained the reaction mixture temperature at 25° to 40° C. The complete addition required about one hour. Upon completion of addition, the reaction mixture was stirred for about one hour, and then about 220 pounds (approximately 72%) of the acetic acid/water solvent was removed by distillation under vacuum (50 mm Hg). Water, 82 pounds, was added, and the resultant slurry was cooled to 25° C. The product was isolated by centrifugation and washed on the centrifuge with water. The product was dried at 70° C. under vacuum, yielding 14.8 pounds of 84.4% pure 4,5-dihydro-3-methyl-1-phenyl-1,2,4-triazol-5(1H)-one (64.2% yield).

reactant | phenylhydrazine | 12 pounds | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetaldehyde | 5.2 pounds | C(C)=O | C2H4O
reactant | sodium cyanate | 7.6 pounds | [O-]C#N.[Na+]
reactant | sodium hypochlorite | 13.3 pounds | Cl[O-].[Na+]
solvent | acetic acid | 115 pounds | C(C)(=O)O | C2H4O2
solvent | acetic acid | 6.1 pounds | C(C)(=O)O | C2H4O2
solvent | water | 72 pounds | O | H2O
solvent | water | 119.7 pounds | O | H2O
product | 4,5-dihydro-3-methyl-1-phenyl-1,2,4-triazol-5(1H)-one | 14.8 pounds, 64.2% yield | CC1=NN(C(N1)=O)C1=CC=CC=C1 | C9H9N3O
